Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Tetanus
 
Attending: ___.
 
Chief Complaint:
Ileostomy 
 
Major Surgical or Invasive Procedure:
Closure of ileostomy.

 
History of Present Illness:
Mrs. ___ presented to the ___ ___ service for 
a planned ileostomy closure, she has a well-healed low anterior 
anastomosis and functional ileostomy.
 
Past Medical History:
-colon cancer, s/p rectosigmoidectomy with right hepatic flexure 
resection and diverting ileostomy on ___, pathology consistent 
with adenoma
-Type 2 diabetes
-Diabetic neuropathy
-Hypertension
-Hypothyroidism
-Hyperlipidemia
-Basal cell carcinoma
-CAD with history of prior MI ___ years ago (inferior infarct)
-Osteoarthritis
-Benign paroxysmal positional vertigo
-Diverticulosis 
-Osteoarthritis
-Mild Aortic Stenosis, AoV area = 1.3 cm2 on ECHO ___

 
Social History:
___
Family History:
Sister - breast cancer 
Sister - thyroid 
Brother - kidney 

 
Physical Exam:
Vitals - 98.7 84 153/72 20 96RA
General - NAD, pain well controlled
Abdomen - Soft, mildly distended, incisionally tender. Incision 
clean, dry, and intact without erythema or drainage. 
 
Pertinent Results:
___ 06:55AM BLOOD WBC-9.0 RBC-3.99* Hgb-11.4* Hct-36.2 
MCV-91 MCH-28.6 MCHC-31.6 RDW-14.6 Plt ___
___ 06:55AM BLOOD Glucose-120* UreaN-21* Creat-0.8 Na-134 
K-3.6 Cl-98 HCO3-29 AnGap-11

 
Brief Hospital Course:
Mrs. ___ was admitted to the ___ service of the 
___ on ___ for planned ileostomy closure.  The patient 
was taken to the operating room on ___ and underwent the 
closure procedure which was successful and without 
complications. She was then taken to the post-anesthesia 
recovery unit (PACU) and monitored there for several hour 
post-operatively prior to transfer to the medical/surgical floor 
for further recover.  The patient's pos-surgical course was 
typical: she was provided with an appropriate diet which was 
advanced as tolerated, given IV and oral pain control according 
to her oral intake and tolerance and was monitored for any 
post-operative complications such as bleeding, infection, ileus 
and hemodynamic changes. Her wound was cared for daily by the 
nursing staff and evaluated by the resident team and attending 
surgeon.  The patient was then normalized to oral home and pain 
medications, regular diet, and was allowed to ambulate early and 
often.  She tolerated this transition and was then discharged 
home with pain medication and other needed prescriptions.  Her 
hospital course was without complications and she was given 
extensive discharge instructions and follow up care reminders. 
 
Medications on Admission:
1. SSI
2. Synthroid 75 mcg qdaily
3. Sertraline 50 mg qdaily 
4. Lopressor 25 mg qdaily
5. ASA 81 mg q daily
6. Vit D2 ___ qweekly
7. Loperamide
 
Discharge Medications:
1. Sertraline 50 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 
RX *levothyroxine 75 mcg 1 tablet(s) by mouth qdaily Disp #*30 
Tablet Refills:*0
4. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*25 Tablet Refills:*0
5. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet,delayed release (___) by 
mouth qdaily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Closed ileostomy following lower anterior resection with 
well-healed low anterior anastomosis.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for closure of your ileostomy. 
You have recovered from this procedure well and you are now 
ready to 
return home. You have tolerated a regular diet, passing gas and 
your pain is controlled with pain medications by mouth. You may 
return home to finish your recovery.

You have a medium sized horizontal incision on your abdomen that 
is closed with staples. This incision can be left open to air or 
covered with a dry sterile gauze dressing if the staples become 
irritated from clothing. The staples will stay in place until 
your first post-operative visit at which time they can be 
removed in the clinic. Please monitor the incision for signs and 

symptoms of infection including: increasing redness at the 
incision, opening of the incision, increased pain at the 
incision line,draining of white/green/yellow/foul smelling 
drainage, or if you develop a fever. Please call the office if 
you develop these symptoms or go to the emergency room if the 
symptoms are severe. You may shower, let the warm water run over 
the incision line and pat the area dry with a towel, do not rub. 


No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by Dr. ___. You may gradually 
increase your activity as tolerated but no heavy exercise until 
cleared by your doctor. 

You will be prescribed a small amount of pain medication if 
needed. Please take this medication exactly as prescribed. You 
may take Tylenol as recommended for pain. Please do not take 
more than 3000 mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication. 

Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual  
activities. Good luck!
 

 
Followup Instructions:
___